US07700589B2
4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylic acid [(R)-2-oxo-2-(4-piperazin-1-yl-piperidin-1-yl)-1-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-ethyl]-amide
A solution of 300 mg (0.40 mmol) 4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylic acid [(R)-2-[4-(4-benzyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-1-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-ethyl]-amide in 10 mL MeOH was hydrogenated in the presence of 30 mg Pd/C (10%) at 50° C. and 3 bar hydrogen pressure until the calculated volume of hydrogen had been taken up. The catalyst was filtered off, the solvent eliminated under reduced pressure and the residue purified by chromatography on silica gel. The product fractions were evaporated down under reduced pressure and dried.

reactant | 4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylic acid [(R)-2-[4-(4-benzyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-1-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-ethyl]-amide | 0.40 mmol, 300 mg | C(C1=CC=CC=C1)N1CCN(CC1)C1CCN(CC1)C([C@@H](CC1=CC=2CCCCC2C=C1)NC(=O)N1CCC(CC1)N1C(NC2=C1C=NC=1C=CC=CC21)=O)=O | C45H54N8O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carboxylic acid [(R)-2-oxo-2-(4-piperazin-1-yl-piperidin-1-yl)-1-(5,6,7,8-tetrahydro-naphthalen-2-ylmethyl)-ethyl]-amide | O=C([C@@H](CC1=CC=2CCCCC2C=C1)NC(=O)N1CCC(CC1)N1C(NC2=C1C=NC=1C=CC=CC21)=O)N2CCC(CC2)N2CCNCC2 | C38H48N8O3
